US06329381B1
3-[(6-Amino-9-benzyl-8-hydroxy-2-purinyl)thio]propanol
Crude 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine (200 mg, 0.73 mmol) was suspended in dimethylformamide (100 ml). To the suspension were added potassium carbonate (150 mg, 1.1 mmol) and 3-bromo-1-propanol (0.1 ml, 1 mmol) in order. The mixture was stirred at room temperature for 4 hours. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography (1% methanol/chloroform) to give the subject compound (149 mg, yield 62%).

reactant | 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine | 0.73 mmol, 200 mg | NC1=C2N=C(N(C2=NC(=N1)S)CC1=CC=CC=C1)O | C12H11N5OS
reactant | potassium carbonate | 1.1 mmol, 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-1-propanol | 1 mmol, 0.1 ml | BrCCCO | C3H7BrO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-[(6-Amino-9-benzyl-8-hydroxy-2-purinyl)thio]propanol | 149 mg, yield 62% | NC1=C2N=C(N(C2=NC(=N1)SCCCO)CC1=CC=CC=C1)O | C15H17N5O2S
